US06599925B2
[1-Bromo-6-(3-pentyl-benzofuran-2-yl)-naphthalen-2-yloxy]-acetic acid
Following the procedure described in Step 4 of Example 6, [1-bromo-6-(3-pentyl-benzofuran-2-yl)-naphthalen-2-yloxy]-acetic acid ethyl ester (1.25 g, 2.53 mmol), was hydrolyzed with potassium hydroxide (0.70 g, 12.5 mmol) in THF (30 mL) and water (10 mL). Crystallization from ethyl acetate/hexane furnished the title compound as an off-white solid (0.90 g), mp 159-161° C. Mass spectrum (+APCl, [M+H]+) m/z 467. 1HNMR (400 MHz, DMSO-d6): δ13.2 (br s, 1H), 8.32 (d, 1H, J=1.5 Hz), 8.22 (d, 1H, J=9.0 Hz), 8.10 (d, 1H, J=9.0 Hz), 8.03 (dd, 1H, J=9.0, 1.5 Hz), 7.69-7.67 (m, 1H), 7.61 (d, 1H, J=8.0 Hz), 7.45 (d, 1H, J=9.0 Hz), 7.35-7.28 (m, 2H), 5.00 (s, 2H), 3.00 (t, 2H, J=7.8 Hz), 1.75-1.66 (m, 2H), 1.40-1.27 (m, 4H), and 0.84-0.79 ppm (m, 3H). Elemental Analysis for C25H23BrO2.1.0H2O: Calculated: C, 61.86; H, 5.19; N, 0.00. Found: C, 61.87; H, 4.70; N, 0.04.

reactant | [1-bromo-6-(3-pentyl-benzofuran-2-yl)-naphthalen-2-yloxy]-acetic acid ethyl ester | 2.53 mmol, 1.25 g | C(C)OC(COC1=C(C2=CC=C(C=C2C=C1)C=1OC2=C(C1CCCCC)C=CC=C2)Br)=O | C27H27BrO4
reactant | potassium hydroxide | 12.5 mmol, 0.70 g | [OH-].[K+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | [1-Bromo-6-(3-pentyl-benzofuran-2-yl)-naphthalen-2-yloxy]-acetic acid | 0.90 g | BrC1=C(C=CC2=CC(=CC=C12)C=1OC2=C(C1CCCCC)C=CC=C2)OCC(=O)O | C25H23BrO4
